US04992474
[5-(4-Bromobutoxy)pentyl]benzene
(2.46 g), T.l.c. [K] Rf 0.58 from 1,4-dibromobutane (7.89 g) and benzenepentanol (2 g).

reactant | 1,4-dibromobutane | 7.89 g | BrCCCCBr | C4H8Br2
reactant | benzenepentanol | 2 g | C1(=CC=CC=C1)CCCCCO | C11H16O
product | [5-(4-Bromobutoxy)pentyl]benzene | BrCCCCOCCCCCC1=CC=CC=C1 | C15H23BrO
